US07439260B2
Step 1: (4-Bromo-2-methoxyphenyl)(4-fluorophenyl)methanone
To a suspension of AlCl3 (14.7 g, 110 mmol) in 250 mL of 1,2-dichloroethane was added 4-fluorobenzoyl chloride (11.8 mL, 100 mmol) at rt. The resulting mixture was stirred at rt for 15 min. and 3-bromoanisole (16.8 g, 90.0 mmol) in 20 mL of 1,2-dichloroethane was added. After 1 h at rt, the brown solution was poured into ice. 2N HCl was added to the aqueous layer followed by an extraction with CH2Cl2. The combined organics were dried (MgSO4), filtered and concentrated. The residue was subjected to chromatography on silica gel (EtOAc/hexane 5:95 to 7:93) affording 5.1 g of a solid that was triturated with 20 mL of EtOAc/hexane (10:90). The title compound was obtained from filtration, and additional product was recovered from the mother liquors.

reactant | AlCl3 | 110 mmol, 14.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-fluorobenzoyl chloride | 100 mmol, 11.8 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 3-bromoanisole | 90.0 mmol, 16.8 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | HCl | 2N | Cl | ClH
solvent | 1,2-dichloroethane | 250 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | (4-Bromo-2-methoxyphenyl)(4-fluorophenyl)methanone | 5.1 g | BrC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)OC | C14H10BrFO2
